US07022887B2
When styrene is reacted with, for example, benzene, toluene or xylene according to the method of the present invention, 1,1-diaryl-ethane such as 1,1-diphenyl-ethane, 1-phenyl-1-tolyl-ethane, or 1-phenyl-1-xylyl-ethane is obtained, respectively, as an aralkylation product.

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 1,1-diphenyl-ethane | C1(=CC=CC=C1)C(C)C1=CC=CC=C1 | C14H14
reactant | 1-phenyl-1-tolyl-ethane | C1(=CC=CC=C1)C(C)C1=C(C=CC=C1)C | C15H16
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-1-xylyl-ethane | C1(=CC=CC=C1)C1(C(C(=CC=C1)C)C)CC | C16H20
